US07173135B2
3-cyano-6,7-dimethoxy-4-[6-chloro-4-(3-methoxyprop-1-ynyl)-2,3-methylene dioxyanilino]quinoline
A mixture of 4-(6-chloro-4-iodo-2,3-methylenedioxyanilino)-3-cyano-6,7-dimethoxyquinoline (0.25 g), methyl 2-propynyl ether (0.09 ml), N,N-diisopropylamine (0.154 ml), bis(triphenylphosphine)palladium(II) dichloride (0.069 g), cuprous iodide (0.028 g) and ethyl acetate (10 ml) was stirred and heated to reflux for 12 hours. The reaction mixture was cooled to ambient temperature and partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulphate and evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of hexane and ethyl acetate as eluent. There was thus obtained the title compound as an oil (0.138 g); NMR Spectrum: (DMSOd6) 3.42 (s, 3H), 3.97 (s, 3H), 3.99 (s, 3H), 4.38 (s, 2H), 6.17 (s, 2H), 7.13 (s, 1H), 7.36 (s, 1H), 7.92 (s, 1H), 8.39 (s, 1H), 9.42 (br s, 1H); Mass Spectrum: M+H+ 452.

reactant | 4-(6-chloro-4-iodo-2,3-methylenedioxyanilino)-3-cyano-6,7-dimethoxyquinoline | 0.25 g | ClC1=CC(=C2C(=C1NC1=C(C=NC3=CC(=C(C=C13)OC)OC)C#N)OCO2)I | C19H13ClIN3O4
reactant | methyl 2-propynyl ether | 0.09 ml | C(C#C)OC | C4H6O
reactant | N,N-diisopropylamine | 0.154 ml | C(C)(C)NC(C)C | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.069 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-cyano-6,7-dimethoxy-4-[6-chloro-4-(3-methoxyprop-1-ynyl)-2,3-methylene dioxyanilino]quinoline | 0.138 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1Cl)C#CCOC)OCO2)OC)OC | C23H18ClN3O5
